US04649160
The 2-(2-phenylethoxy)ethanol obtained according to the preceding paragraph was dissolved in 100 ml of pyridine. The solution was treated with 4.48 g of methanesulfonyl chloride and the mixture was stirred at room temperature for 0.5 hour. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and 2N hydrochloric acid. The organic phase was washed with water, dried over sodium sulfate, filtered and evaporated to give 8.1 g (85%) of 2-(2-phenylethoxy)ethyl methanesulfonate in the form of an oil which was homogeneous according to chromatography.

reactant | 2-(2-phenylethoxy)ethanol | C1(=CC=CC=C1)CCOCCO | C10H14O2
reactant | methanesulfonyl chloride | 4.48 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-phenylethoxy)ethyl methanesulfonate | 8.1 g, 85% | CS(=O)(=O)OCCOCCC1=CC=CC=C1 | C11H16O4S
